US05696263
(S)-4-O-Benzyl-1-O-[(p-methoxyphenyl)diphenylmethyl]-1,2,4-butanetriol
(S)-4-O-Benzyl-1,2,4-butanetriol (68.3 g, 348 mmol) was mixed with triethylamine (70.4 g, 696 mmol) and dimethylaminopyridine (3.42 g, 28 mmol) were mixed in methylene chloride (300 mL) under nitrogen atmosphere. To the solution p-anisylchlorodiphenylmethane (129.1 g, 418 mmol) was added at 0° C. The reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 5 hours. Saturated sodium bicarbonate was added to the mixture and the resulting mixture was stirred at room temperature for 1 hour. The aqueous layer was extracted with methylene chloride (150 mL×2). The combined methylene chloride extracts were dried over mganesium sulfate. The solvent was evaporated, and the residue was purified by flash chromatography on silica gel (ethyl acetate:hexane=1:5 to 1:1) to give 155.5 g (95% yield) of the title compound as a thick oil.

reactant | (S)-4-O-Benzyl-1,2,4-butanetriol | 348 mmol, 68.3 g | C(C1=CC=CC=C1)OCC[C@@H](CO)O | C11H16O3
reactant | triethylamine | 696 mmol, 70.4 g | C(C)N(CC)CC | C6H15N
reactant | p-anisylchlorodiphenylmethane | 418 mmol, 129.1 g | C(C1=CC=C(C=C1)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C21H19ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | dimethylaminopyridine | 28 mmol, 3.42 g | CN(C)C1=NC=CC=C1 | C7H10N2
product | (S)-4-O-Benzyl-1-O-[(p-methoxyphenyl)diphenylmethyl]-1,2,4-butanetriol | 155.5 g, 95% yield | C(C1=CC=CC=C1)OCC[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)OC)O | C31H32O4
